US07517995B2
1-(3-aminomethyl-phenyl)-imidazolidin-2-one hydrochloride (XV.1)
40.00 g (210 mmol) 3-(2-oxo-imidazolidin-1-yl)-benzonitrile are suspended in 1500 ml of methanol, 53 ml of 37% hydrochloric acid are added. The mixture is hydrogenated for 20 hours at ambient temperature under a pressure of 7 bar with 4.00 g palladium/charcoal. The catalyst is filtered off, the filtrate is concentrated and the precipitate formed is suction filtered, washed with acetone and dried.

reactant | 3-(2-oxo-imidazolidin-1-yl)-benzonitrile | 210 mmol, 40.00 g | O=C1N(CCN1)C=1C=C(C#N)C=CC1 | C10H9N3O
reactant | hydrochloric acid | 53 ml | Cl | ClH
solvent | methanol | 1500 ml | CO | CH4O
catalyst | palladium/charcoal | 4.00 g | [Pd] | Pd
product | 1-(3-aminomethyl-phenyl)-imidazolidin-2-one hydrochloride | Cl.NCC=1C=C(C=CC1)N1C(NCC1)=O | InChI=1S/C10H13N3O.ClH/c11-7-8-2-1-3-9(6-8)13-5-4-12-10(13)14;/h1-3,6H,4-5,7,11H2,(H,12,14);1H
